US04167570
11-[3-(N-Ethyl-N-isopropyl-amino)-propyl]-6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one by method A
A mixture consisting of 4.5 gm of 6,11-dihydro-2,6-dimethyl-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one, 60 ml of dioxane and 1.27 gm of 50% sodium hydride in mineral oil was stirred at 90° C. for 1 hour. Thereafter, 4.3 gm of 3-(N-ethyl-N-isopropyl-amino)-propyl chloride were added dropwise, and the mixture was refluxed for 17 hours. The reaction solution was then evaporated in vacuo, and the residue was purified over a silica gel column and recrystallized from petroleum ether, yielding 36% of theory of the compound named in the heading, which had a melting point of 104°-105° C.

reactant | 6,11-dihydro-2,6-dimethyl-5H-pyrido-[2,3-b][1,5]benzodiazepin-5-one | 4.5 gm | CC=1C=CC2=C(NC3=C(N(C2=O)C)C=CC=C3)N1 | C14H13N3O
reactant | sodium hydride | 1.27 gm | [H-].[Na+]
reactant | 3-(N-ethyl-N-isopropyl-amino)-propyl chloride | 4.3 gm | C(C)N(C(C)C)CCCCl | C8H18ClN
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 11-[3-(N-Ethyl-N-isopropyl-amino)-propyl]-6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | C(C)N(C(C)C)CCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC(=N2)C | C22H30N4O
